* Post-extraction ADPLL simulation — IHP SG13G2 130nm
* Measures DCO ring oscillator frequency with real parasitic RC
*
* Run: ngspice -b tb_dco_pex.spice -o dco_pex_results.log
*   or: ngspice tb_dco_pex.spice   (interactive, for plotting)

** ===== Transistor models (typical corner: 1.2V, 25C) =====
.LIB ../IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt

** ===== Port-remapped standard cells + extracted netlist =====
.include tt_um_chrbirks_top_pex.spice

** ===== Power supply: 1.2V =====
Vvdd VPWR 0 1.2
Vvss VGND 0 0

** ===== Instantiate extracted top-level =====
** Port order from extracted .subckt:
**   VGND VPWR clk ena rst_n
**   ui_in[0..7] uio_in[0..7]
**   uio_oe[0..7] uio_out[0..7] uo_out[0..7]
Xtop VGND VPWR clk ena rst_n
+ ui_in[0] ui_in[1] ui_in[2] ui_in[3] ui_in[4] ui_in[5] ui_in[6] ui_in[7]
+ uio_in[0] uio_in[1] uio_in[2] uio_in[3] uio_in[4] uio_in[5] uio_in[6] uio_in[7]
+ uio_oe[0] uio_oe[1] uio_oe[2] uio_oe[3] uio_oe[4] uio_oe[5] uio_oe[6] uio_oe[7]
+ uio_out[0] uio_out[1] uio_out[2] uio_out[3] uio_out[4] uio_out[5] uio_out[6] uio_out[7]
+ uo_out[0] uo_out[1] uo_out[2] uo_out[3] uo_out[4] uo_out[5] uo_out[6] uo_out[7]
+ tt_um_chrbirks_top

** ===== Stimulus =====
** Reference clock: 10 MHz (100ns period)
Vclk clk 0 PULSE(0 1.2 0 0.1n 0.1n 50n 100n)

** Enable: always on
Vena ena 0 1.2

** Reset: active-low, release after 50ns (5 ref_clk cycles at 10 MHz).
** If you change the ref_clk frequency, scale this accordingly:
**   release_time = N_reset_cycles * ref_clk_period  (e.g., 5 * 100n = 500n)
Vrst rst_n 0 PWL(0 0 50n 0 50.1n 1.2)

** Unused inputs tied to ground
Vui0 ui_in[0] 0 0
Vui1 ui_in[1] 0 0
Vui2 ui_in[2] 0 0
Vui3 ui_in[3] 0 0
Vui4 ui_in[4] 0 0
Vui5 ui_in[5] 0 0
Vui6 ui_in[6] 0 0
Vui7 ui_in[7] 0 0
Vuio0 uio_in[0] 0 0
Vuio1 uio_in[1] 0 0
Vuio2 uio_in[2] 0 0
Vuio3 uio_in[3] 0 0
Vuio4 uio_in[4] 0 0
Vuio5 uio_in[5] 0 0
Vuio6 uio_in[6] 0 0
Vuio7 uio_in[7] 0 0

** ===== Analysis =====
** Syntax: .tran <max_timestep> <stop_time>
**
** HOW TO MODIFY SIMULATION PARAMETERS
** ------------------------------------
**
** 1) TIMESTEP (first argument):
**    This is the MAXIMUM step ngspice is allowed to take. Internally it uses
**    adaptive stepping (smaller when signals change fast), but never exceeds this.
**    The DCO ring oscillator runs at ~300-600 MHz (period ~1.6-3.3ns).
**    Rule of thumb: timestep <= fastest_period / 10.
**      - 0.1n : Required for this extracted netlist. The parasitic RC network
**               makes the system stiff (time constants spanning ps to us), and
**               the SG13G2 inverter edges are ~80-120ps. The simulator must take
**               steps small enough to track these edges or convergence fails.
**      - 0.2n+: TOO LARGE — causes convergence failure! The simulator straddles
**               inverter transitions, can't reconcile the inconsistent state,
**               shrinks the timestep to ~1e-22 trying to recover, and aborts:
**               "Timestep too small; trouble with node ..."
**    Do not increase beyond 0.1n for this post-extraction netlist.
**
** 2) STOP TIME (second argument):
**    Must be long enough for the signals you want to observe.
**      - 500n  (0.5us): ~5 ref_clk cycles. Enough to see DCO start up and early
**                        freq_ctrl movement. Lock will NOT be reached.
**      - 6500n (6.5us): ~65 ref_clk cycles. May see partial convergence.
**      - 50000n (50us): ~500 ref_clk cycles. Should reach lock (~400 cycles needed).
**
** 3) IMPORTANT: When you change stop_time, you MUST also update the MEAS
**    statements below. The RISE=N parameter counts rising edges from t=0.
**    If the simulation ends before N edges occur, the measurement fails
**    silently (returns "not found"), and derived calculations become garbage.
**    See the MEAS section below for guidance on choosing RISE values.
**
** ===== Save only signals needed for analysis (reduces memory ~1000x) =====
** Without .save, ngspice stores ALL ~5000+ internal PEX nodes at every
** timepoint. At 0.1n step over 6500n, that's 65k points × 5k nodes × 16B
** ≈ 5-7 GB of RAM → crash/OOM on longer runs.
** With .save, only these ~12 signals are kept → ~15 MB even at 50us.
**
** To debug internal nodes, temporarily add them here, e.g.:
**   .save v(uo_out[0]) v(Xtop.ring_node_3) ...
** Then revert before long runs.
.save v(uo_out[0]) v(uo_out[1]) v(clk) v(rst_n) v(ena)
+ v(uio_out[0]) v(uio_out[1]) v(uio_out[2]) v(uio_out[3])
+ v(uio_out[4]) v(uio_out[5]) v(uio_out[6])

** Presets (uncomment one — always use 0.1n timestep):
* .tran 0.1n 500n      $ Short run: DCO startup only (~6 min simulation time)
* .tran 0.1n 1000n      $ Short run: DCO startup only (~13 min simulation time)
.tran 0.1n 6500n   $ Medium run: partial convergence (~65 ref_clk cycles) ( ~1h10m simulation time)
* .tran 0.1n 50000n  $ Long run: full lock acquisition (~500 ref_clk cycles)

** ===== Control block =====
** This script only runs the simulation and saves raw waveform data.
** Use tb_dco_pex_analysis.spice (or `make pex-sim-analysis`) to run
** measurements on the saved data without re-simulating.
.control
set num_threads=8
* set ngbehavior=hsa
run
** .save is active above — bare 'write' saves only those listed signals.
** Using 'write ... all' would override .save and dump every PEX node again.
write tb_dco_pex.raw
echo ""
echo "Simulation complete. Waveform saved to tb_dco_pex.raw"
echo "Run 'make pex-sim-analysis' to measure frequencies."
echo ""
echo "Key signals in raw file:"
echo "  v(uo_out[0])  = clk_out (divided DCO output)"
echo "  v(uo_out[1])  = locked indicator"
echo "  v(clk)        = reference clock (10 MHz)"
echo "  v(uio_out[6..0]) = freq_ctrl[6:0]"
quit
.endc

.end
